** sch_path: /home/emilian/work/tt-rf-playground/xschem/tt08_pll.sch
**.subckt tt08_pll IREF_CP VDPWR VGND VAPWR PLL_OUT PLL_REF BOOTB VBIASN_G5W2L1 FB_PRE_DIV
*+ FB_POST_DIV
*.iopin IREF_CP
*.iopin VDPWR
*.iopin VGND
*.iopin VAPWR
*.opin PLL_OUT
*.ipin PLL_REF
*.ipin BOOTB
*.iopin VBIASN_G5W2L1
*.iopin FB_PRE_DIV
*.iopin FB_POST_DIV
x3 PLL_REF FB_POST_DIV UP_LOW DN_LOW R_LOW VDPWR VSS pll_pfd
x7 FB_PRE_DIV D1 VGND VGND VDPWR VDPWR net5 D1 sky130_fd_sc_hd__dfxbp_2
x15 A1C FB_PRE_DIV VDPWR VSS pll_inv1
XR1 A1C FB_PRE_DIV net6 sky130_fd_pr__res_xhigh_po_0p35 L=20 mult=1 m=1
XC2 A1C AB1 sky130_fd_pr__cap_mim_m3_1 W=20 L=20 MF=1 m=1
viosc VPWR_OSC VOUT_CP 0
.save i(viosc)
x6 VOUT_CP VCP VOUT_CP VBIASN_G5W2L1 VAPWR VSS opamp3hv
x23 UP_LOW UP UPB VAPWR VDPWR VSS lvl_shift_lohi1
x24 DN_LOW DN DNB VAPWR VDPWR VSS lvl_shift_lohi1
XC1 VOUT_CP VSS sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
x14 A3 A4 AB4 VDPWR VPWR_OSC VSS pll_inv1_buf
x13 A2 A3 AB3 VDPWR VPWR_OSC VSS pll_inv1_buf
x12 A1 A2 AB2 VDPWR VPWR_OSC VSS pll_inv1_buf
x11 A0 A1 AB1 VDPWR VPWR_OSC VSS pll_inv1_buf
x10 A4 A0 AB0 VDPWR VPWR_OSC VSS pll_inv1_buf
x20 A1C FB_PRE_DIV VDPWR VSS pll_inv1
x4 UPB DN VCP IREF_CP VAPWR VSS pll_cp_echo_hv
XC3 net2 VSS sky130_fd_pr__cap_mim_m3_1 W=100 L=50 MF=1 m=1
R2 VCP net2 3000 m=1
XC4 VCP VSS sky130_fd_pr__cap_mim_m3_1 W=20 L=1 MF=1 m=1
XM16 VCP BOOTB VDPWR VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x17 VDPWR VCP net7 VBIASN_G5W2L1 VAPWR VSS opamp3hv
XM3 VCP net7 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
x1 D1 D2 VGND VGND VDPWR VDPWR net8 D2 sky130_fd_sc_hd__dfxbp_2
x5 D2 D3 VGND VGND VDPWR VDPWR net9 D3 sky130_fd_sc_hd__dfxbp_2
x8 D3 net1 VGND VGND VDPWR VDPWR FB_POST_DIV net1 sky130_fd_sc_hd__dfxbp_2
x18 FB_PRE_DIV net4 VDPWR VSS pll_inv1
x2 net4 net3 VDPWR VSS pll_inv1
x9 net4 net3 VDPWR VSS pll_inv1
x16 net3 PLL_OUT VDPWR VSS pll_inv1
x19 net3 PLL_OUT VDPWR VSS pll_inv1
x21 net3 PLL_OUT VDPWR VSS pll_inv1
x22 net3 PLL_OUT VDPWR VSS pll_inv1
Vmeas VGND VSS 0
.save i(vmeas)
**.ends

* expanding   symbol:  pll_pfd.sym # of pins=5
** sym_path: /home/emilian/work/tt-rf-playground/xschem/pll_pfd.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/pll_pfd.sch
.subckt pll_pfd A B QA QB R VDD VSS
*.ipin A
*.ipin B
*.iopin VDD
*.ipin VSS
*.opin QA
*.opin QB
*.opin R
x1 QA A QAB VDD VSS pll_nor
x2 QAB RA QA VDD VSS pll_nor
x3 QB B QBB VDD VSS pll_nor
x4 QBB RB QB VDD VSS pll_nor
x6 RAB QAB RA VDD VSS pll_nor
x7 RA R RAB VDD VSS pll_nor
x8 RBB QBB RB VDD VSS pll_nor
x9 RB R RBB VDD VSS pll_nor
x10 net2 net1 VDD VSS pll_inv1
x11 net3 net2 VDD VSS pll_inv1
x12 net1 R VDD VSS pll_inv1
x13 net1 R VDD VSS pll_inv1
x14 net1 R VDD VSS pll_inv1
x15 QB QA net3 VDD VSS pll_nand
.ends


* expanding   symbol:  pll_inv1.sym # of pins=2
** sym_path: /home/emilian/work/tt-rf-playground/xschem/pll_inv1.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/pll_inv1.sch
.subckt pll_inv1 D Q VDD VSS
*.opin Q
*.ipin D
*.ipin VDD
*.ipin VSS
XM3 Q D net1 net1 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
vpwr VDD net1 0
.save i(vpwr)
XM1 Q D VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  opamp3hv.sym # of pins=6
** sym_path: /home/emilian/work/tt-rf-playground/xschem/opamp3hv.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/opamp3hv.sch
.subckt opamp3hv IN_N IN_P VOUT VBIASN_G5W2L1 VDD VSS
*.iopin VDD
*.iopin VSS
*.ipin IN_N
*.opin VOUT
*.ipin IN_P
*.iopin VBIASN_G5W2L1
vimeasn net2 VN 0
.save i(vimeasn)
vimeasp net3 voutstage1 0
.save i(vimeasp)
vicom vcom net1 0
.save i(vicom)
XC1 VOUT voutstage1 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1 m=1
XM6 net1 VBIASN_G5W2L1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net3 net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM1 VOUT voutstage1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=16 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM4 VOUT VBIASN_G5W2L1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM3 VN IN_N vcom VSS sky130_fd_pr__nfet_03v3_nvt L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4
XM5 voutstage1 IN_P vcom VSS sky130_fd_pr__nfet_03v3_nvt L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XC2 VDD VSS sky130_fd_pr__cap_mim_m3_1 W=4 L=4 MF=1 m=1
.ends


* expanding   symbol:  lvl_shift_lohi1.sym # of pins=6
** sym_path: /home/emilian/work/tt-rf-playground/xschem/lvl_shift_lohi1.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/lvl_shift_lohi1.sch
.subckt lvl_shift_lohi1 D Q QB VDDH VDDL VSS
*.opin Q
*.ipin D
*.iopin VDDH
*.iopin VDDL
*.iopin VSS
*.opin QB
vpwr VDDL net1 0
.save i(vpwr)
XM1 QB Q VDDH VDDH sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Q QB VDDH VDDH sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 QB D VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Q DB VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM5 DB D VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 DB D net1 VDDL sky130_fd_pr__pfet_01v8_lvt L=0.5 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  pll_inv1_buf.sym # of pins=6
** sym_path: /home/emilian/work/tt-rf-playground/xschem/pll_inv1_buf.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/pll_inv1_buf.sch
.subckt pll_inv1_buf D Q QB VPB VDD VSS
*.opin Q
*.ipin D
*.iopin VDD
*.iopin VPB
*.iopin VSS
*.opin QB
XM3 Q D net1 VPB sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
vpwr VDD net1 0
.save i(vpwr)
XM1 Q D VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 QB Q net2 VPB sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
vpwr1 VPB net2 0
.save i(vpwr1)
XM4 QB Q VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  pll_cp_echo_hv.sym # of pins=6
** sym_path: /home/emilian/work/tt-rf-playground/xschem/pll_cp_echo_hv.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/pll_cp_echo_hv.sch
.subckt pll_cp_echo_hv UPB DN VOUT IREF VDD VSS
*.opin VOUT
*.ipin VSS
*.ipin VDD
*.ipin DN
*.ipin UPB
*.ipin IREF
vibias net3 net8 0
.save i(vibias)
XM16 net5 UPB VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM13 net2 VSS VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM14 net3 net3 net2 VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM11 net1 VDD VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM17 IREF IREF net1 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM15 net4 VDD VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM18 net8 IREF net4 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 net6 DN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM19 net7 IREF net6 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 net9 net3 net5 VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
viup net9 VOUT 0
.save i(viup)
vidown VOUT net7 0
.save i(vidown)
.ends


* expanding   symbol:  pll_nor.sym # of pins=3
** sym_path: /home/emilian/work/tt-rf-playground/xschem/pll_nor.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/pll_nor.sch
.subckt pll_nor A B Q VDD VSS
*.opin Q
*.ipin A
*.ipin B
*.ipin VDD
*.ipin VSS
XM3 net1 A net2 net3 sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
vpwr VDD net2 0
.save i(vpwr)
XM1 Q A VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Q B net1 net2 sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Q B VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  pll_nand.sym # of pins=3
** sym_path: /home/emilian/work/tt-rf-playground/xschem/pll_nand.sym
** sch_path: /home/emilian/work/tt-rf-playground/xschem/pll_nand.sch
.subckt pll_nand A B Q VDD VSS
*.opin Q
*.ipin A
*.ipin B
*.ipin VDD
*.ipin VSS
XM3 Q B net1 net1 sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
vpwr VDD net1 0
.save i(vpwr)
XM1 net2 B VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Q A net1 net1 sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Q A net2 VSS sky130_fd_pr__nfet_01v8_lvt L=0.25 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
